US06723871B2
A solution of 50 mL of a mixture of formic acid-triethylamine (5:2 in molar ratio) and 70.1 mg of RuCl[(1R,2R)-p-TsNHCH(C6H5)CH(C6H5)NH2] (p-cymene) dissolved in 25 mL of tetrahydrofuran was stirred at 35° C., and a solution of 10.0 g of ethyl 4,4,4-trifluoro-3-oxobutanoate dissolved in 25 mL of tetrahydrofuran was added thereto over a period of 30 minutes. The reaction mixture was stirred at the same temperature for 21 hours and the conversion into the hydroxy compound was found to be 100%. After the reaction mixture was concentrated under reduced pressure using an evaporator, 20 mL of water and 40 mL of ethyl acetate were added to the resulting concentrate and then a saturated sodium carbonate aqueous solution was added thereto under stirring until the pH became 7 or higher. After the separation of the ethyl acetate layer, the water layer was further extracted with 25 mL of ethyl acetate. Then, the ethyl acetate layer was combined with the previous ethyl acetate layer and the combined layer was concentrated. The resulting concentrate was distilled under reduced pressure (88-89° C./2660 Pa) to obtain 8.96 g of optically active ethyl 4,4,4-trifluoro-3-hydroxybutanoate (yield 88.6%). Upon the measurement under the above conditions, the optical purity of the resulting optically active ethyl 4,4,4-trifluoro-3-hydroxybutanoate was found to be 94.2% e.e.

reactant | formic acid-triethylamine | C(C)N(CC)CC.C(=O)O
reactant | p-cymene | 70.1 mg | CC=1C=CC(=CC1)C(C)C | C10H14
reactant | ethyl 4,4,4-trifluoro-3-oxobutanoate | 10.0 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | ethyl 4,4,4-trifluoro-3-hydroxybutanoate | yield 88.6% | FC(C(CC(=O)OCC)O)(F)F | C6H9F3O3
